US08754225B2
Step A: Biphenyl-2-yl-carbamic acid 1-{2-[(4-formylbenzoyl)methylamino]ethyl}piperidin-4-yl Ester
4-Carboxybenzaldehyde (9 g, 60 mmol, 1.0 eq.) and biphenyl-2-yl-carbamic acid 1-(2-methylaminoethyl)piperidin-4-yl ester (21.2 g, 60 mmol, 1.0 eq.) were combined in MeTHF (115 mL). The mixture was stirred for 0.5 hours, forming a thick slurry. Additional MeTHF (50 mL) was added to form a free-flowing slurry. 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (18 g, 63 mmol, 1.1 eq., 97% pure) was added in two portions and the funnel rinsed with additional MeTHF (50 mL). The mixture was stirred at room temperature overnight. MeCN (50 mL) was added and the mixture was filtered. The solids were washed with MeTHF (30 mL). The filtrate and washes were combined and a saturated NaHCO3 solution (100 mL) was added and stirred for 10 minutes. The layers were separated and a saturated NaCl solution (100 mL) was added and stirred for 10 minutes. The layers were separated and the aqueous layer discarded. The resulting solution was concentrated under reduced pressure and held at room temperature for three days, then used directly in the next step.

reactant | 4-Carboxybenzaldehyde | 60 mmol, 9 g, 1.0 eq. | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | biphenyl-2-yl-carbamic acid 1-(2-methylaminoethyl)piperidin-4-yl ester | 60 mmol, 21.2 g, 1.0 eq. | CNCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C21H27N3O2
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 63 mmol, 18 g, 1.1 eq. | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | MeTHF | 115 mL | CC1CCCO1 | C5H10O
solvent | MeTHF | 50 mL | CC1CCCO1 | C5H10O
product | Biphenyl-2-yl-carbamic acid 1-{2-[(4-formylbenzoyl)methylamino]ethyl}piperidin-4-yl Ester | C(=O)C1=CC=C(C(=O)CNCCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H31N3O4
